US06635638B2
3-Benzo[1,3dioxol-5-yl-2-(4-imidazol-1-yl-phenyl)-1,2,3,4-tetrahydro-pyrrolo[3,4-b]quinolin-9-one (#133)
3-(1,3-benzodioxol-5-yl)-1,2,3,4-tetrahydro-9H-pyrrolo[3,4-b]quinolin-9-one (30.6 mg, 0.1 mmol), 1-(4-bromo-phenyl)-1H-imidazole (22.3 mg, 0.1 mmol), Pd2dba3 (4.6 mg, 0.005 mmol), biphenyl-2-yl-di-tert-butyl-phosphane 3.0 mg, 0.01 mmol) and NaOtBu (14 mg, 0.14 mmol) were stirred in 1,4-dioxane (0.6 mL) at 89° C. for 17 hours. Purification by preparative TLC (5% CH3OH/CH2Cl2) yielded the title product as yellow powder.

reactant | 3-(1,3-benzodioxol-5-yl)-1,2,3,4-tetrahydro-9H-pyrrolo[3,4-b]quinolin-9-one | 0.1 mmol, 30.6 mg | O1COC2=C1C=CC(=C2)C2NCC1=C2NC=2C=CC=CC2C1=O | C18H14N2O3
reactant | 1-(4-bromo-phenyl)-1H-imidazole | 0.1 mmol, 22.3 mg | BrC1=CC=C(C=C1)N1C=NC=C1 | C9H7BrN2
reactant | biphenyl-2-yl-di-tert-butyl-phosphane | 0.01 mmol, 3.0 mg | C1(=C(C=CC=C1)P(C(C)(C)C)C(C)(C)C)C1=CC=CC=C1 | C20H27P
reactant | NaOtBu | 0.14 mmol, 14 mg | CC(C)(C)[O-].[Na+]
reactant | 1,4-dioxane | 0.6 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2dba3 | 0.005 mmol, 4.6 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1,3dioxol-5-yl-2-(4-imidazol-1-yl-phenyl)-1,2,3,4-tetrahydro-pyrrolo[3,4-b]quinolin-9-one | O1COC=C1C1N(CC=2NC=3C=CC=CC3C(C21)=O)C2=CC=C(C=C2)N2C=NC=C2 | C23H18N4O3
